US07547717B2
To a solution of 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)propionic acid (1 eq), 1-3-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.7 eq) and morpholine (1.7 eq) in THF is stirred overnight at room temperature. The reaction is quenched with water and extracted with ethyl acetate. The organics are dried and concentrated under vacuum. The residue is purified by chromatography on silica to give 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)-1-(pyrrolidin-1-yl)propan-1-one.

reactant | 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)propionic acid | 1 eq | ClC1=CC=C(C=C1)N1C(N(C=C1C1=CC=C(C=C1)F)CCC(=O)O)=S | C18H14ClFN2O2S
reactant | morpholine | 1.7 eq | N1CCOCC1 | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(1-(4-chlorophenyl)-5-(4-fluorophenyl)-1,2-dihydro-2-thioxoimidazol-3-yl)-1-(pyrrolidin-1-yl)propan-1-one | ClC1=CC=C(C=C1)N1C(N(C=C1C1=CC=C(C=C1)F)CCC(=O)N1CCCC1)=S | C22H21ClFN3OS
